US08703784B2
Step 4: Preparation of 3-iodo-5-(1-(tetrahydro-2H-pyran-4-ylamino)ethyl)-N,N-bis((2-(trimethylsilyl)ethoxy)methyl)pyrazolo[1,5-a]pyrimidin-7-amine
To a solution of 5-(1-(tetrahydro-2H-pyran-4-ylamino)ethyl)-N,N-bis((2-(trimethylsilyl)ethoxy)methyl)pyrazolo[1,5-a]pyrimidin-7-amine (0.17 g, 0.32 mmol) in acetonitrile (15 ml) at 0° C. was added NIS (78 mg, 0.35 mmol) and stirring continued for 10 minutes. LC/MS showed no starting material (M.W=521) remaining. Saturated sodium thiosulfate solution (˜0.5 ml) was added and stirring continued for 5 minutes. After the acetonitrile was rotoevaporated, the aqueous phase was extracted with DCM (25 ml), washed with water (1×5 ml), brine (1×5 ml), dried over MgSO4. Solvent was removed in vacuo and the residue was purified by column chromatography on silica gel. Elution with MeOH/EtOAC (0-20%) gave desired product, 3-iodo-5-(1-(tetrahydro-2H-pyran-4-ylamino)ethyl)-N,N-bis((2-(trimethylsilyl)ethoxy)methyl)pyrazolo[1,5-a]pyrimidin-7-amine (0.14 g, 69%).

reactant | 5-(1-(tetrahydro-2H-pyran-4-ylamino)ethyl)-N,N-bis((2-(trimethylsilyl)ethoxy)methyl)pyrazolo[1,5-a]pyrimidin-7-amine | 0.32 mmol, 0.17 g | O1CCC(CC1)NC(C)C1=NC=2N(C(=C1)N(COCC[Si](C)(C)C)COCC[Si](C)(C)C)N=CC2 | C25H47N5O3Si2
reactant | NIS | 0.35 mmol, 78 mg | C1CC(=O)N(C1=O)I | C4H4INO2
reactant | sodium thiosulfate | ˜0.5 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 3-iodo-5-(1-(tetrahydro-2H-pyran-4-ylamino)ethyl)-N,N-bis((2-(trimethylsilyl)ethoxy)methyl)pyrazolo[1,5-a]pyrimidin-7-amine | 0.14 g, 69% | IC=1C=NN2C1N=C(C=C2N(COCC[Si](C)(C)C)COCC[Si](C)(C)C)C(C)NC2CCOCC2 | C25H46IN5O3Si2
